US04845281
diazotation of 2-(4-aminophenyl)propionic acid and subsequent reaction of diazonium salt with potassium xanthogenate to give 2-(4-thiophenyl)-propionic acid;

reactant | 2-(4-aminophenyl)propionic acid | NC1=CC=C(C=C1)C(C(=O)O)C | C9H11NO2
reactant | potassium xanthogenate | CCOC(=S)[S-].[K+]
product | 2-(4-thiophenyl)-propionic acid | S1C=CC(=C1)C(C(=O)O)C | C7H8O2S
